US06780875B2
3-(4-Amino-piperidin-1-ylmethyl)-2-phenyl-quinoline-4-carboxylic acid ((S)-1-phenyl-propyl)-amide
0.477 g (1 mmol) of 3-(4-oxo-piperidin-1-ylmethyl)-2-phenyl-quinoline-4-carboxylic acid ((S)-1-phenyl-propyl)-amide (compound of Description 18), 0.462 g (6 mmol) of ammonium acetate were dissolved in 10 ml of methanol and stirred at room temperature for 1 h. Then 0.08 g of sodium cyanoborohydride were added and the mixture was stirred one night at room temperature. The reaction mixture was poured in 50 ml of water and the formed precipitate was filtered off. The aqueous phase was extracted with methylene chloride. The collected solid was dissolved in methylene chloride, both organic phases merged, washed with water, dried over MgSO4, concentrated to dryness. The residue was purified by micro flash chromatography on silicagel (CH2Cl2/MeOH/NH4OH: 90/10/1) to afford 47 mg of the title compound as a white solid (yield ca 10%).

reactant | 3-(4-oxo-piperidin-1-ylmethyl)-2-phenyl-quinoline-4-carboxylic acid ((S)-1-phenyl-propyl)-amide | 1 mmol, 0.477 g | C1(=CC=CC=C1)[C@H](CC)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)CN1CCC(CC1)=O | C31H31N3O2
reactant | ammonium acetate | 6 mmol, 0.462 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 0.08 g | C(#N)[BH3-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 3-(4-Amino-piperidin-1-ylmethyl)-2-phenyl-quinoline-4-carboxylic acid ((S)-1-phenyl-propyl)-amide | 47 mg, yield ca 10% | C1(=CC=CC=C1)[C@H](CC)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)CN1CCC(CC1)N | C31H34N4O
